US04952689
To a suspension of 9.2 g of (E)-1-(4-methoxyphenyl)-3-(2-oxopropylidene)-4-phenyl-2azetidinone in 200 ml of isopropyl alcohol were added 3.1 g of hydroxylamine hydrochloride and 3.1 g of imidazole, and then the mixture was stirred at room temperature overnight. The resulting precipitate was collected by filtration, and recrystallized from isopropyl alcohol to give 8.8 g of (E)-1-(4-methoxy-phenyl)-3-(2-hydroxyiminopropylidene)-4-phenyl-2azetidinone.

reactant | (E)-1-(4-methoxyphenyl)-3-(2-oxopropylidene)-4-phenyl-2azetidinone | 9.2 g | COC1=CC=C(C=C1)N1C(/C(/C1C1=CC=CC=C1)=C/C(C)=O)=O | C19H17NO3
reactant | hydroxylamine hydrochloride | 3.1 g | Cl.NO
reactant | imidazole | 3.1 g | N1C=NC=C1 | C3H4N2
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | (E)-1-(4-methoxy-phenyl)-3-(2-hydroxyiminopropylidene)-4-phenyl-2azetidinone | 8.8 g | COC1=CC=C(C=C1)N1C(/C(/C1C1=CC=CC=C1)=C/C(C)=NO)=O | C19H18N2O3
